US05445762
1-((1-Adamantyl)acetyl)-1-aza-4,7,10,13,16-pentaoxacyclooctadecane
Analogously to Example 14 from 1-aza-4,7,10,13,16-pentaoxacyclooctadecane and (1-adamantyl) acetyl chloride.

reactant | 1-aza-4,7,10,13,16-pentaoxacyclooctadecane | N1CCOCCOCCOCCOCCOCC1 | C12H25NO5
reactant | (1-adamantyl) acetyl chloride | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
product | 1-((1-Adamantyl)acetyl)-1-aza-4,7,10,13,16-pentaoxacyclooctadecane | C12(CC3CC(CC(C1)C3)C2)CC(=O)N2CCOCCOCCOCCOCCOCC2 | C24H41NO6
